US07851465B2
(E)-5,7-Dichloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (0.68 g, 1.44 mmol), 2-oxo-2,3-dihydro-1H-benzoimidazole-5-boronic acid pinacol ester (0.37 g, 1.44 mmol) and lithium chloride (0.183 g, 4.31 mmol) were added to 1,4-dioxane (12 mL). Nitrogen was bubbled into the solution as reagents were added. Tetrakis(triphenylphosphine) palladium(0) (166 mg, 0.144 mmol) was added followed by cesium hydroxide monohydrate (723 mg, 4.31 mmol) and water (1 mL). After bubbling nitrogen through the mixture for 5 minutes it was heated to 100° C. under a nitrogen atmosphere. Following heating for 2 hours, the mixture was cooled to ambient temperature, diluted with ethyl acetate (50 mL), washed with water (2×40 mL), then brine (40 mL), dried with sodium sulfate, decanted, then concentrated in the presence of silica. The resulting silica gel-bound crude product was loaded onto a silica gel column and eluted with a gradient of 0-100% ethyl acetate in hexanes to yield (Z)-7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-5-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one as a 2:1 mixture of product: 2-oxo-2,3-dihydro-1H-benzoimidazole-5-boronic acid pinacol ester (200 mg, 24%). ESI m/z 571.1, 573.1. Part II:

reactant | (E)-5,7-Dichloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 1.44 mmol, 0.68 g | Cl/C=1/C2=C(N(C(C(\N1)CC1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C24H19Cl3N2O2
reactant | 2-oxo-2,3-dihydro-1H-benzoimidazole-5-boronic acid pinacol ester | 1.44 mmol, 0.37 g | O=C1NC2=C(N1)C=CC(=C2)B2OC(C)(C)C(C)(C)O2 | C13H17BN2O3
reactant | lithium chloride | 4.31 mmol, 0.183 g | [Cl-].[Li+]
reactant | cesium hydroxide monohydrate | 4.31 mmol, 723 mg | O.[OH-].[Cs+]
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0.144 mmol, 166 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 1 mL | O | H2O
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | (Z)-7-chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-5-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one | ClC1=CC\2=C(N(C(C(\N=C2\C2=CC3=C(NC(N3)=O)C=C2)CC2=C(C=CC=C2)Cl)=O)CC2=CC=C(C=C2)OC)C=C1 | C31H24Cl2N4O3
